US04131736
114 g. of 2-hexenoic acid is neutralized with aqueous sodium hydroxide and reacted with 204 g. of a 50% wt. aqueous solution of sodium bisulfite at 25° C. Complete addition of bisulfite to the double bond requires several hours. The product is concentrated to approximately 50% wt. solids and then treated with a strong acid ion exchange resin to obtain an aqueous solution of 3-sulfohexanoic acid. This is dried by vacuum stripping and converted into 3-propyl-1,2-oxathiolane-5-one-2,2-dioixde with refluxing thionyl chloride at 80° C. for 3 hours. Equivalent weight is 93.

reactant | 2-hexenoic acid | C(C=CCCC)(=O)O | C6H10O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | bisulfite | S([O-])(O)=O
product | 3-sulfohexanoic acid | S(=O)(=O)(O)C(CC(=O)O)CCC | C6H12O5S
